US04217129
2,2,7,7-tetramethyl-oct-4-en-3,6-dione (0.01 mol) and 1,2,4-triazole (0.01 mol), suspended in toluene (100 ml), were refluxed for 24 hours. On cooling to room temperature, the organic layer was washed with water (4×100 ml) and dried over sodium sulphate. Removal of the solvent gave 4-(1,2,4-triazol-1-yl)-2,2,7,7-tetramethyl-octan-3,6-dione, m.p. 66°-69°.

reactant | 2,2,7,7-tetramethyl-oct-4-en-3,6-dione | 0.01 mol | CC(C)(C(C=CC(C(C)(C)C)=O)=O)C | C12H20O2
reactant | 1,2,4-triazole | 0.01 mol | N1N=CN=C1 | C2H3N3
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(1,2,4-triazol-1-yl)-2,2,7,7-tetramethyl-octan-3,6-dione | N1(N=CN=C1)C(C(C(C)(C)C)=O)CC(C(C)(C)C)=O | C14H23N3O2
